* C:\Users\artur\Desktop\150W-24V-Flyback-Converter-in-CCM\24V_150W_100kHz_CCM\Ltspice simulation models\flyback.asc
C1 vout 0 1.5m
R1 vout 0 {RL}
V1 vin 0 PULSE(0 293 0 2m 2m 2 4)
V2 N004 0 PULSE(0 12 0 50n 50n {D/f} {1/f})
R2 N005 N004 10
L1 vin vds 200µ
L2 0 N001 29.8µ
XM2 vds N005 0 IPA70R360P7S_L0
R3 vin N003 3k
C2 vin N003 66n
D4 vds N003 RFN1L7S
C3 vds N006 33p
R4 N007 N006 82
R5 N008 N007 82
R6 N009 N008 82
R7 0 N009 82
R8 N002 N001 164
C4 vout N002 33p
XU1 N001 vout NC_01 C3D02060A
XU2 N001 vout NC_02 C3D02060A
.model D D
.lib C:\Users\artur\Documents\LTspiceXVII\lib\cmp\standard.dio
K L1 L2 0.98
.tran 0 {10m+5/f} 10m 100n
.param f=100k
.param RL=3.84 D=0.177
*****************************************************************
* INFINEON Power Transistors                                    *
* Content:        SPICE Model Library                           *
* Device:         CoolMOS (Superjunction MOSFET)                *
* Model Types:    L0 L1 L3                                      *
* Technology:     P7 700V                                       *
* Date and time:  09.04.2020  13:55:01                          *
* Version:        750-718-414-726-557-611-611-753-553           *
*****************************************************************
*                                                               *
* The models for Infineon Power MOSFET are evaluated with       *
* SIMetrixTM-SPICE simulator. The Infineon Power MOSFET models  *
* are tested, verified and provided in SPICE simulation code.   *
*                                                               *
* Infineon | Terminals | Usage suggestion                       *
* Level    |           |                                        *
* ------------------------------------------------------------- *
* L0       | G, D, S   | General electrical simulations/ whole  *
*          |           | application circuits.                  *
* ------------------------------------------------------------- *
* L1       | G, D, S   | Transient, switching losses and        *
*          |           | efficiency analyses. Behavior of       *
*          |           | device over full temperature range.    *
* ------------------------------------------------------------- *
* L2       | G, D, S,  | Same as L1 but with individual device  *
*          | Tj, Tcase | temperature. This model is not         *
*          |           | supported because it is covered by     *
*          |           | L3-model.                              *
* ------------------------------------------------------------- *
* L3       | G, D, S,  | Self-heating effects, modeling of heat *
*          | Tj, Tcase | flow including thermal models of       *
*          |           | application.                           *
*                                                               *
*****************************************************************
* Detailed Informations:                                        *
*                                                               *
* The model files are available on the Infineon web page:       *
* http://www.infineon.com                                       *
* Please refer also to the Infineon application note AN 2014-02 *
* "Simulation models for Infineon Power MOSFET"                 *
*                                                               *
* This library contains models of the following INFINEON        *
* CoolMOS transistors:                                          *
*                                                               *
*   P7 700V                                                     *
*      IPD70R360P7S       IPS70R360P7S       IPA70R360P7S          *
*      IPD70R600P7S       IPS70R600P7S       IPA70R600P7S          *
*      IPD70R900P7S       IPS70R900P7S       IPD70R1K4P7S          *
*      IPS70R1K4P7S       IPSA70R360P7S       IPA70R450P7S          *
*      IPSA70R450P7S       IPSA70R600P7S       IPA70R750P7S          *
*      IPSA70R750P7S       IPA70R900P7S       IPSA70R900P7S          *
*      IPSA70R1K2P7S       IPSA70R1K4P7S       IPSA70R2K0P7S          *
*      IPN70R360P7S       IPN70R600P7S       IPN70R900P7S          *
*      IPN70R1K4P7S       IPAN70R450P7S       IPAN70R750P7S          *
*      IPAN70R900P7S       IPN70R450P7S       IPN70R750P7S          *
*      IPN70R1K2P7S       IPN70R2K0P7S       IPLK70R600P7          *
*      IPLK70R750P7       IPLK70R900P7       IPLK70R1K2P7          *
*      IPLK70R1K4P7       IPLK70R2K0P7                          *
*                                                               *
*****************************************************************
**********************************************************************
************************ L1 TECHNOLOGY MODEL *************************
**********************************************************************
.SUBCKT cool_700_p77_var dd g s Tj t1 PARAMS: a=1 dVth=0 dR=0 Inn=1 Unn=1 Rmax=1
+gmin=1 Rs=1 Rdp=1 heat=0
.PARAM  fpar42=298
.PARAM  fpar1=3.56
.PARAM  fpar2=0.00329
.PARAM  fpar3=-0.0031
.PARAM  fpar4=13
.PARAM  fpar5=0.83
.PARAM  fpar6=2.84
.PARAM  fpar7=0.3
.PARAM  fpar8=5.6945
.PARAM  fpar9=0.586075
.PARAM  fpar10=4.4
.PARAM  fpar11=1.0647
.PARAM  fpar12=4.132
.PARAM  fpar13=0.295
.PARAM  fpar14=-23
.PARAM  fpar15=770
.PARAM  fpar16=0.88
.PARAM  fpar18=0.063
.PARAM  fpar19=-28.4
.PARAM  fpar20=2e-006
.PARAM  fpar21=1.09
.PARAM  fpar22=0.394
.PARAM  fpar23=1.47e-012
.PARAM  fpar24=1.8e-010
.PARAM  fpar25=0.5e-010
.PARAM  fpar26=5.14e-012
.PARAM  fpar27=1.9e-015
.PARAM  fpar28=5e-013
.PARAM  fpar29=1.15e-011
.PARAM  fpar30=4e-013
.PARAM  fpar31=1e-14
.PARAM  fpar32=90
.PARAM  fpar33=1.9e-012
.PARAM  fpar34=670e-15
.PARAM  fpar35=4.95e-010
.PARAM  fpar36=1.05e-007
.PARAM  fpar37=4e-009
.PARAM  fpar38=1.6e-010
.PARAM  fpar39=4.0e-011
.PARAM  fpar17=0.0
.PARAM          fpar40=85.8u
.PARAM  fpar41=273
.PARAM  dRdi={fpar18/a}
.PARAM  Cdio={fpar23*a}
.PARAM  Cdg1={fpar24*a+fpar25*SQRT(a)}
.PARAM  Cdg2={fpar26*a}
.PARAM  CdgV1={fpar27*a}
.PARAM  CdgV2={(fpar31*a+fpar28)}
.PARAM  Cds0={fpar33*a+fpar34*SQRT(a)}
.PARAM  Cds1={a*fpar35}
.PARAM  Cgs0={fpar38*a+fpar39*(SQRT(a))}
.PARAM  Vmin=3.4   Vmax=5.4
.PARAM  Vth={fpar1+(Vmax-fpar1)*limit(dVth,0,1)-(Vmin-fpar1)*limit(dVth,-1,0)}
.PARAM  r0={fpar8*((fpar41/fpar42)**fpar9)*a}
.PARAM  r1={(Unn-Inn*Rs-fpar1)*r0}
.PARAM  r2={(fpar17*SQRT(0.4)-fpar11)*Inn*r0}
.PARAM  Rlim={(r1+2*r2*Rmax-SQRT(r1**2+4*r2))/(2*r2)}
.PARAM  dRd={fpar5/a+if(dVth==0,limit(dR,0,1)*max(Rlim-fpar5/a-Rs-Rdp,0),0)}
.PARAM  CAP_eedg=-0.556
.PARAM  x0={(fpar29-fpar26)/fpar30}  x1={fpar29/fpar30} dx={x1-x0}
.FUNC           QCdg1(x) {Cdg2*min(x,x1)+CdgV2*max(x-x1,0)+CdgV1/2*max(0, x-fpar32)**2+(Cdg2-CdgV2)*((limit(x,x0,x1)-x0)**3/(dx*dx)*((limit(x,x0,x1)-x0)/(2*dx)-1))}
.PARAM  Eds1={-6000}            Eds2={-320}     Eds3={-200}     eeds1={-0.1667} eeds2={-6.25m}  eeds3={-0.05}
.PARAM          a0={(fpar36-fpar35)/fpar37} a1={fpar36/fpar37} da={a1-a0}
.FUNC           QCds1(x) {Cds1*min(x,a1)+Cds1*((limit(x,a0,a1)-a0)**3/(da*da)*((limit(x,a0,a1)-a0)/(2*da)-1))}
E_Edg1     d1     ox  VALUE {if(V(d1,g)>0,V(d1,g)-(exp(CAP_eedg*max(V(d1,g),0))-1)/CAP_eedg,0)}
C_Cdg1     ox      g  {Cdg1}
E_Edg2     d1    ox2  VALUE {V(d1,g)-QCdg1(V(d1,g))/Cdg2}
C_Cdg2    ox2      g  {Cdg2}
C_Cds0     d1      s  {Cds0}
E_Eds1     d1  edep1  VALUE {if(V(d1,s)>0,V(d1,s)-Eds1*(exp(eeds1*max(V(d1,s),0))-1)-Eds2*(exp(eeds2*max(V(d1,s),0))-1)-Eds3*(exp(eeds3*max(V(d1,s),0))-1),0)}
C_Cds1  edep1      s  {Cds0}
E_Eds2     d1  edep2  VALUE {V(d1,s)-QCds1(V(d1,s))/Cds1}
C_Cds2  edep2      s  {Cds1}
C_Cgs       g      s  {Cgs0}
.FUNC I0(Uee,p,pp,z1,cc)  {if(Uee>pp,(Uee-cc*z1)*z1,p*(pp-p)/cc*exp((Uee-pp)/p))}
.FUNC Ig(Uds,T,p,Uee,cc)  {fpar8*(fpar41/T)**fpar9*I0(Uee,p,min(2*p,p+cc*Uds),min(Uds,Uee/(2*cc)),cc)}
.FUNC J(d,g,T,da,s)
+ {a*(s*(Ig(da,T,fpar10*fpar40*T,g-Vth+fpar2*(T-fpar42),fpar11)+1*exp(min(fpar14+(d-fpar15-fpar16*(T-fpar42))/fpar13,25))))}
G_chan    d    s  VALUE={J(V(d,s),V(g,s),fpar41+limit(V(Tj),-200,499),(SQRT(1+4*fpar12*abs(V(d,s)))-1)/2/fpar12,sgn(V(d,s)))}
V_Ichannel d1 d 0
.FUNC Rd0(T)  {(fpar7*dRd+(1-fpar7)*dRd*(T/fpar42)**fpar6)}
.FUNC CF(T,Iepi) {(fpar4**2)/max(1,fpar4**2-(Rd0(T)*Iepi)**limit(2+fpar3*(T-fpar42),1.2,3))}
V_Iepi     dd d2 0
G_G_Rd     d2 d1 VALUE {V(d2,d1)/(Rd0(fpar41+LIMIT(V(t1),-200,999))*CF(fpar41+LIMIT(V(t1),-200,999),abs(I(V_Iepi))))}
G_Dio  s dio VALUE={(a*exp(fpar19-3.3))*exp(((((V(Tj)+273)/273)-1)*1.11)/(((V(Tj)+273)*fpar21*fpar40)))*((V(Tj)+273)/273)**(3/fpar21)*(exp(V(s,dio)/((V(Tj)+273)*fpar21*fpar40)-1))}
G_Rdio   dio2   dd  VALUE={V(dio2,dd)/(dRdi*((limit(V(Tj),-200,999)+fpar41)/fpar42)**fpar22)}
V_sense2 dio2   dio  0
R_R_ERd_g  d2 d1  10k
R1        g    s    1G
Rd01      d    s    500Meg
Rd02     d2    s    500Meg
Rd03     dio   s    500Meg
G_G_Ptot_channel 0 Tj VALUE {heat*LIMIT(V(d,s)*I(V_Ichannel),0,100k) }
G_G_Ptot_Epi     0 t1 VALUE {heat*(LIMIT(V(dd,d1)*I(V_Iepi),0,100k)+LIMIT(V(dd,s)*I(V_sense2),0,100k))}
.ENDS
**********************************************************************
**********************************************************************
************************ L0 TECHNOLOGY MODEL *************************
**********************************************************************
.SUBCKT IPD70R360P7S_L0  drain  gate  source
Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   2n
Rs      s1    s2   3.4m
Rg     g1    g2     30
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 15.008  VTO=3.7  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    0.27 TC=9m
.MODEL MVDR NMOS (KP=26.1 VTO=-1   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m
Cds1 s2 d2 4.6p
Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=700   M=0.9  CJO=1.4n  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=2122.3p  N=1.5  RS=44u  EG=1.12  TT=250n)
Rdiode  d1  21    17m TC=1m
.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   0.55n
.MODEL     DGD    D(M=0.9   CJO=0.55n   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    0.6n
.ENDS  IPD70R360P7S_L0
********************************************************************************
.SUBCKT IPD70R360P7S_L1 drain gate source PARAMS: dVth=0 dRdson=0
.PARAM Rs=2.31E-03    Rg=30.0    Rdp=2.38E-06          Ls=3.34E-09        Ld=8.24E-11
.PARAM Lg=4.06E-09    act=3.0319        Inn={1.0*3.0319}  Unn=10.0       Rmax=360m
X1  dd g s Tj Tj cool_700_p77_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn}
+Rmax={Rmax} Rs={Rs} Rdp={Rdp} heat=0
L_Ld         drain  ldrd    {Ld}
R_Ld         drain  ldrd    10
R_Rd         dd     ldrd    {Rdp}
L_Ls         source lsrs  {Ls}
R_Ls         source lsrs  10
R_Rs         s      lsrs  {Rs}
L_Lg         gate   lgrg  {Lg}
R_Lg         gate   lgrg  10
R_Rg         lgrg   g     {Rg}
E1    Tj     w      VALUE={TEMP}
R1    w      0      1u
.ENDS
********************************************************************************
.SUBCKT IPD70R360P7S_L3 drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 Zthtype=0
.PARAM Rs=2.31E-03    Rg=30.0    Rdp=2.38E-06          Ls=3.34E-09        Ld=8.24E-11
.PARAM Lg=4.06E-09    act=3.0319        Inn={1.0*3.0319}  Unn=10.0       Rmax=360m
.PARAM lzth={limit(Zthtype,0,1)}
X1  dd g s Tj 1 cool_700_p77_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn}
+Rmax={Rmax} Rs={Rs} Rdp={Rdp} heat=1
L_Ld         drain  ldrd    {Ld}
R_Ld         drain  ldrd    10
R_Rd         dd     ldrd    {Rdp}
L_Ls         source lsrs  {Ls}
R_Ls         source lsrs  10
R_Rs         s      lsrs  {Rs}
L_Lg         gate   lgrg  {Lg}
R_Lg         gate   lgrg  10
R_Rg         lgrg   g     {Rg}
C_CZth1      Tj     0     29.167u
C_CZth2      0      1     175.882u
C_CZth3      0      2     248.304u
C_CZth4      0      3     1.412m
C_CZth5      0      4     2.001m
C_CZth6      0      Tcase 42.5m
C_CZth7      0      6     65m
C_CZth8      0      7     90m
R_Rth1       Tj     1     {55.94m+lzth*14.5m}
R_Rth2       1      2     {77.16m+lzth*20m}
R_Rth3       2      3     {432.99m+lzth*112.25m}
R_Rth4       3      4     {439.6m+lzth*312.3m}
R_Rth5       4      Tcase {343.8m+lzth*291.46m}
R_Rth6       Tcase  6     500m
R_Rth7       6      7     50
.ENDS
********************************************************************************
.SUBCKT IPS70R360P7S_L0  drain  gate  source
Lg     gate  g1    3n
Ld     drain d1    2n
Ls     source s1   2n
Rs      s1    s2   3.2m
Rg     g1    g2     30
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 15.008  VTO=3.7  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    0.27 TC=9m
.MODEL MVDR NMOS (KP=26.1 VTO=-1   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m
Cds1 s2 d2 4.6p
Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=700   M=0.9  CJO=1.4n  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=2122.3p  N=1.5  RS=44u  EG=1.12  TT=250n)
Rdiode  d1  21    17m TC=1m
.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   0.55n
.MODEL     DGD    D(M=0.9   CJO=0.55n   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    0.6n
.ENDS  IPS70R360P7S_L0
********************************************************************************
.SUBCKT IPS70R360P7S_L1 drain gate source PARAMS: dVth=0 dRdson=0
.PARAM Rs=2.38E-03    Rg=30.0    Rdp=1.92E-04          Ls=2.14E-09        Ld=1.06E-09
.PARAM Lg=3.42E-09    act=3.0319        Inn={1.0*3.0319}  Unn=10.0       Rmax=360m
X1  dd g s Tj Tj cool_700_p77_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn}
+Rmax={Rmax} Rs={Rs} Rdp={Rdp} heat=0
L_Ld         drain  ldrd    {Ld}
R_Ld         drain  ldrd    10
R_Rd         dd     ldrd    {Rdp}
L_Ls         source lsrs  {Ls}
R_Ls         source lsrs  10
R_Rs         s      lsrs  {Rs}
L_Lg         gate   lgrg  {Lg}
R_Lg         gate   lgrg  10
R_Rg         lgrg   g     {Rg}
E1    Tj     w      VALUE={TEMP}
R1    w      0      1u
.ENDS
********************************************************************************
.SUBCKT IPS70R360P7S_L3 drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 Zthtype=0
.PARAM Rs=2.38E-03    Rg=30.0    Rdp=1.92E-04          Ls=2.14E-09        Ld=1.06E-09
.PARAM Lg=3.42E-09    act=3.0319        Inn={1.0*3.0319}  Unn=10.0       Rmax=360m
.PARAM lzth={limit(Zthtype,0,1)}
X1  dd g s Tj 1 cool_700_p77_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn}
+Rmax={Rmax} Rs={Rs} Rdp={Rdp} heat=1
L_Ld         drain  ldrd    {Ld}
R_Ld         drain  ldrd    10
R_Rd         dd     ldrd    {Rdp}
L_Ls         source lsrs  {Ls}
R_Ls         source lsrs  10
R_Rs         s      lsrs  {Rs}
L_Lg         gate   lgrg  {Lg}
R_Lg         gate   lgrg  10
R_Rg         lgrg   g     {Rg}
C_CZth1      Tj     0     29.167u
C_CZth2      0      1     175.882u
C_CZth3      0      2     248.304u
C_CZth4      0      3     1.412m
C_CZth5      0      4     0p
C_CZth6      0      Tcase 0p
C_CZth7      0      6     0p
R_Rth1       Tj     1     {55.94m+lzth*14.5m}
R_Rth2       1      2     {77.16m+lzth*20m}
R_Rth3       2      3     {432.99m+lzth*112.25m}
R_Rth4       3      4     {439.6m+lzth*484.2m}
R_Rth5       4      Tcase {0p+lzth*463.36m}
R_Rth6       Tcase  6     0p
.ENDS
********************************************************************************
.SUBCKT IPA70R360P7S_L0  drain  gate  source
Lg     gate  g1    4n
Ld     drain d1    2.5n
Ls     source s1   2.5n
Rs      s1    s2   5.6m
Rg     g1    g2     30
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 15.008  VTO=3.7  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    0.27 TC=9m
.MODEL MVDR NMOS (KP=26.1 VTO=-1   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m
Cds1 s2 d2 4.6p
Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=700   M=0.9  CJO=1.4n  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=2122.3p  N=1.5  RS=44u  EG=1.12  TT=250n)
Rdiode  d1  21    17m TC=1m
.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   0.55n
.MODEL     DGD    D(M=0.9   CJO=0.55n   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    0.6n
.ENDS  IPA70R360P7S_L0
********************************************************************************
.SUBCKT IPA70R360P7S_L1 drain gate source PARAMS: dVth=0 dRdson=0
.PARAM Rs=3.37E-03    Rg=30.0    Rdp=2.35E-04          Ls=3.68E-09        Ld=2.13E-09
.PARAM Lg=6.18E-09    act=3.0319        Inn={1.0*3.0319}  Unn=10.0       Rmax=360m
X1  dd g s Tj Tj cool_700_p77_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn}
+Rmax={Rmax} Rs={Rs} Rdp={Rdp} heat=0
L_Ld         drain  ldrd    {Ld}
R_Ld         drain  ldrd    10
R_Rd         dd     ldrd    {Rdp}
L_Ls         source lsrs  {Ls}
R_Ls         source lsrs  10
R_Rs         s      lsrs  {Rs}
L_Lg         gate   lgrg  {Lg}
R_Lg         gate   lgrg  10
R_Rg         lgrg   g     {Rg}
E1    Tj     w      VALUE={TEMP}
R1    w      0      1u
.ENDS
********************************************************************************
.meas TRAN Qg INTEG Ix(M2:G) TRIG V(n005)=50m TD=0 RISE=5 TARG V(n005)=11 TD=0 RISE=5
.MEAS TRAN Ip_rms RMS I(L1)
*******************************************************************
* Model name       : STPS1150
* Description      : High Voltage Power Schottky rectifier
* Package type     : DO-41 in Ammopack
*******************************************************************
.MODEL STPS1150 D
+ IS=763.32E-9 N=1.6469 RS=23.343E-3 IKF=39.871E-3 XTI=2 EG=.69 CJO=109.75E-12
+ M=.44326 VJ=.39736 ISR=10.010E-21 NR=4.9950 FC=0.5 TT=0
*$
*******************************************************************
.MEAS TRAN Ip_peak MAX I(L1)
.lib Cree Power C3D Packaged SPICE Model Library.lib
.lib C:\Users\artur\Desktop\150W-24V-Flyback-Converter-in-CCM\24V_150W_100kHz_CCM\Ltspice simulation models\Cree Power C3D Packaged SPICE Model Library.lib
.backanno
.end
